US08802690B2
Acid Preparation 12: 3-cyano-1H-indazole-5-carboxylic acid
To a solution of methyl 3-cyano-1H-indazole-5-carboxylate (2.5 g, 12 mmol) in ethanol (40 mL), a solution of lithium hydroxide (1.04 g. 24.9 mmol) in water (15 mL) was added and stirred at ambient temperature for 16 h. The mixture was concentrated and the obtained residue was dissolved in water (25 mL) and washed with ethyl acetate (20 mL). The aqueous layer was acidified with 10% citric acid solution, the obtained precipitate was filtered, washed with 50% ethyl acetate in petroleum ether (2×10 mL) and dried to afford the title compound (1.9 g, 82%) as a brown solid. 1HNMR (DMSO-d) δ ppm 13.8-12.4 (br, 2H), 8.44 (s, 1H), 8.1 (d. 1H), 7.82 (d, 1H).

reactant | methyl 3-cyano-1H-indazole-5-carboxylate | 12 mmol, 2.5 g | C(#N)C1=NNC2=CC=C(C=C12)C(=O)OC | C10H7N3O2
reactant | lithium hydroxide | 24.9 mmol, 1.04 g | [OH-].[Li+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 3-cyano-1H-indazole-5-carboxylic acid | 1.9 g, 82% | C(#N)C1=NNC2=CC=C(C=C12)C(=O)O | C9H5N3O2
